US08236319B2
Methyl 2-(acetylthio)-4-bromobutanoate
10.0 g (38.4 mmol) of methyl 2,4-dibromobutanoate in 100 ml of dry THF at 20° C. was added drop wise the mixture of 2.75 ml (38.5 mmol) of thiolacetic acid in 8.5 ml (48.9 mmol) of DIPEA and 50 ml of dry THF in 1.5 hour. After stirring overnight at −20° C. then 0° C. for 2 hours under Ar, the mixture was concentrated, diluted with EtAc/Hexane, washed with 1.0 M NaH2PO4, dried over MgSO4, filtered, evaporated, and SiO2 chromatographic purification (1:12 to 1:10 EtAc/Hexane) to afford 9.5 g (96%) of the title compound. 1H NMR (CDCl3) 4.38 (1H, t, J=7.1 Hz), 3.74 (s, 3H), 3.40 (m, 2H), 2.57˜2.47 (m, 1H), 2.37 (s, 3H), 2.36˜2.21 (m, 1H); 13C NMR 193.24, 171.36, 53.15, 44.45, 34.67, 30.46, 29.46; MS m/z+276.9 (M+Na), 278.9 (M+2+Na)

reactant | methyl 2,4-dibromobutanoate | 38.4 mmol, 10.0 g | BrC(C(=O)OC)CCBr | C5H8Br2O2
reactant | thiolacetic acid | 38.5 mmol, 2.75 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | DIPEA | 48.9 mmol, 8.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 2-(acetylthio)-4-bromobutanoate | 9.5 g, 96% | C(C)(=O)SC(C(=O)OC)CCBr | C7H11BrO3S
